* C:\C1 Repos\Technion_Project_A\LTSPICE\Simulations\Flyback V6.asc
L1 VL1 N002 1µ
L2 0 VL2 1µ
V1 VL1 0 {Vin}
Dout VL2 Vout VS-E5PX6006
Rout Vout 0 5
V2 N005 0 12
V3 Vup 0 PULSE(0 6 0 10n 10n {D1/fs} {1/fs})
XU3 N003 N004 0 Vup Vdn N005 IR4427
Cout Vout 0 50µ
Cin VL1 0 15µ
XU2 Vgup N002 0 EPC2302
R1 N001 P001 10
C1 P001 N002 10n
R3 P002 VL2 1k
C3 Vout P002 100p
C4 0 N005 10n
V4 Vdn 0 PULSE(0 6 {(D1+D3)/fs} 10n 10n {D2/fs} {1/fs})
XU1 Bgdn N001 N002 EPC2302
R2 Vgup N003 25
R4 Bgdn N004 25
C2 VL1 N001 10n
R5 VL1 N001 1k
R6 N002 P003 10
C5 P003 0 10n
C6 Vout 0 100µ
.model D D
.lib D:\C1 Mainframe\Documents\LTspiceXVII\lib\cmp\standard.dio
K L1 L2 0.95
.param Vin = 12
.tran 0 1m 0 startup
.param fs=1000k
.param D1=0.18 D2=0.05 D3=0.05
* Transformer
.lib C:\Program Files\LTC\LTspiceXVII\lib\sub\IR4427.lib
.lib EPCGanlibrary.lib
.backanno
.end
