* C:\C1 Repos\Technion_Project_A\LTSPICE\Simulations\Flyback V6.asc
L1 VL1 N003 1µ
L2 Gnd_Sec VL2 1µ
V1 VL1 Gnd_Prim {Vin}
Dout VL2 Vout VS-E5PX6006
Rout Vout Gnd_Sec 5
V2 N006 Gnd_Prim 12
V3 Vup Gnd_Prim PULSE(0 6 0 10n 10n {D1/fs} {1/fs})
XU3 N004 N005 Gnd_Prim Vup Vdn N006 IR4427
Cout Vout Gnd_Sec 50µ
Cin VL1 Gnd_Prim 15µ
XU2 Vgup N003 Gnd_Prim EPC2302
R1 N001 N002 10
C1 N002 N003 10n
R3 P001 VL2 1k
C3 Vout P001 100p
C4 Gnd_Prim N006 10n
V4 Vdn Gnd_Prim PULSE(0 6 {(D1+D3)/fs} 10n 10n {D2/fs} {1/fs})
XU1 Bgdn N001 N003 EPC2302
R2 Vgup N004 25
R4 Bgdn N005 25
C2 VL1 N001 10n
R5 VL1 N001 1k
R6 N003 P002 10
C5 P002 Gnd_Prim 10n
C6 Vout Gnd_Sec 100µ
V§Gnd_Prim Gnd_Prim 0 0
V§Gnd_Sec Gnd_Sec 0 0
.model D D
.lib D:\C1 Mainframe\Documents\LTspiceXVII\lib\cmp\standard.dio
K L1 L2 0.95
.param Vin = 12
.tran 1m startup
.param fs=500k
.param D1=0.18 D2=0.05 D3=0.05
* Transformer
.lib C:\Program Files\LTC\LTspiceXVII\lib\sub\IR4427.lib
.lib EPCGanlibrary.lib
.backanno
.end
